US09145438B2
Step 5: 7-((3aR,4R,6R,6aR)-6-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
N-(2-amino-4-(tert-butyl)phenyl)-5-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)pentanamide (140 mg, mmol) was taken up in acetic acid (3.5 mL) and the solution was heated at 65° C. for 2 h, whereupon HPLC indicated the starting material had been consumed. The reaction mixture was cooled to room temperature and the solvent was removed under high vac. The residue was taken up in 30 mL CH2Cl2 and washed with 20 mL portions of sat NaHCO3 and 2% Na2CO3 solution. The organic phase was dried over Na2SO4, filtered and concentrated to yield a light tan glass/stiff foam. The crude material was purified by flash chromatography (25 g silica gel; 3% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (120 mg, 88%) as a slightly tan glass: MS (ESI+) for C41H55N7O5 m/z 726.5 (M+H)+; MS (ESI−) for C41H55N7O5 m/z 724.6 (M−H)−; HPLC purity 90% (ret. time, 3.14 min).

reactant | N-(2-amino-4-(tert-butyl)phenyl)-5-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)pentanamide | 140 mg | NC1=C(C=CC(=C1)C(C)(C)C)NC(CCCCN(C(C)C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C41H57N7O6
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
product | 7-((3aR,4R,6R,6aR)-6-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 120 mg, 88% | C(C)(C)(C)C1=CC2=C(NC(=N2)CCCCN(C(C)C)C[C@H]2O[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C41H55N7O5
